US08492372B2
2-METHOXY-4-(METHYLSULFONYL)BENZOIC ACID
2-methoxy-4-(methylthio)benzoic acid (10.8 g, 54 mmol) is dissolved in acetic acid and the solution was cooled to 10° C. Sodium tungstate 2-hydrate (1.2 g, 3.7 mmol) was added until percipitation. After the precipitation had dissolved and the solution was cooled H2O2 (4.1 ml, 135 mmol) was added dropwise. 10 minutes later the reaction mixture was heated to 50° C. for 1 h. Sodium sulphite (3.4 g, 27 mmol) in water (80 ml) was added and the resulting mixture was stirred for 30 min. Water and aqueous HCl (10%) were added. The aqueous phase was extracted with EtOAc and the combined organic layers were dried (Na2SO4) and evaporated under reduced pressure to give a white powder (5.7 g). No further purification was made of this intermediate. 1H-NMR (400 MHz, MeOH): δ 7.92 (1H, d, J 8 Hz), δ 7.61 (1H, s), δ 7.56 (1H, d, J 8 Hz), δ 3.95 (3H, s), δ 3.18 (3H, s).

reactant | 2-methoxy-4-(methylthio)benzoic acid | 54 mmol, 10.8 g | COC1=C(C(=O)O)C=CC(=C1)SC | C9H10O3S
reactant | H2O2 | 135 mmol, 4.1 ml | OO | H2O2
reactant | Sodium sulphite | 27 mmol, 3.4 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 80 ml | O | H2O
product | 2-METHOXY-4-(METHYLSULFONYL)BENZOIC ACID | 5.7 g | COC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C9H10O5S
